### PR TITLE
Cleaning and documenting theory about (co)limits

### PR DESCRIPTION
**Pull request by mortberg**
The main contributions of this PR are:

- Documentation for files related to (co)limits.
- Remove dependency on cats/limits.v everywhere (maybe this file should be deleted as it doesn't really add anything compared to graphs/limits?)
- Merge all files on pullbacks into one file (limits/pullbacks.v).
- Merge constructions of (binary) (co)products in functor categories into the files on (binary) (co)products. 

I would also like to make some renaming of files, but as this PR already is pretty huge I figured that should be done in a separate PR.

### CODE REVIEW

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 1]
```diff
@@ -434,4 +447,572 @@ Section pb_criteria.
...
+(**  Diagram for next lemma
+
+              i'           k
+         d' -------> d --------> c
+         |           |           |
+       h'|           |h          | g
+         v           v           v
+         b'--------> b --------> a
+              i            f
+*)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: Could you make this a verbatim comment, so that it shows nicely in the HTML?

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 2]
```diff
@@ -434,4 +447,572 @@ Section pb_criteria.
...
+(** setup for this section
+
+                k
+          d --------> c
+          |           |
+       h  |     H     | g
+          v           v
+          b --------> a
+               f
+*)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: Verbatim for the diagram.

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 3]
```diff
@@ -434,4 +447,572 @@ Section pb_criteria.
...
+         d' -------> d --------> c
+         |           |           |
+       h'|           |h          | g
+         v           v           v
+         b'--------> b --------> a
+              i            f
+*)
+
+Lemma isPullback_iso_of_morphisms (b' d' : C) (h' : C⟦d', b'⟧)
+     (i : C⟦b', b⟧) (i' : C⟦d', d⟧)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: Section title: Pullback object invariant under isomorphism

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 4]
```diff
@@ -434,4 +447,572 @@ Section pb_criteria.
...
+        eapply pathscomp0. apply (!functor_comp _ _ _ _ _ _ ).
+        apply X1.
+      * assert (X2:= maponpaths (#F) H2).
+        eapply pathscomp0. apply (!functor_comp _ _ _ _ _ _ ).
+        apply X2.
+Defined.
+
+End isPullback_if_functor_on_square_is.
+
+(** A ff and es functor preserves pullbacks *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: This should be a section title, as should many other comments in this file (my fault).
Could you change this, please? 
Also, it should be "fully faithful" and "essentially surjective".

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 5]
```diff
@@ -434,4 +447,572 @@ Section pb_criteria.
...
+Definition maps_pb_squares_to_pb_squares :=
+   Π {a b c d : C}
+     {f : C ⟦b, a⟧} {g : C ⟦c, a⟧} {h : C⟦d, b⟧} {k : C⟦d,c⟧}
+     (H : h ;; f = k ;; g),
+     maps_pb_square_to_pb_square H.
+
+End functor_on_square.
+
+
+Section pullbacks_pointwise.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: This section is about pullbacks in functor categories. Could you add a corresponding section title?

**Comment by tpannila** [comment]
This pull request most likely has conflicts with some of my pull requests. Please, 
merge this pull request before any of my pull requests. I need to fix my pull 
requests anyway.

**Comment by vladimirias** [comment]
Having a diagram is good too. If it does not show well in the HTML maybe we can leave it as a (* .. *) comment for those who read the .v file.

**Comment by vladimirias** [comment]
Is it at all possible to make diagram to show well in the HTML? That would be great.

**Comment by vladimirias** [comment]
Benedikt, the title that you suggest is not exactly right. I may suggest:

"The square isomorphic to a pullback is a pullback (case 1)”

**Comment by vladimirias** [comment]
Do we have “Fully faithful functors reflect pullbacks” section with the proof that if F(Sq) is pullback and F is fully faithful then Sq is pullback?

**Comment by benediktahrens** [comment]
On 09/16/2016 01:07 PM, Vladimir Voevodsky wrote:
> Do we have “Fully faithful functors reflect pullbacks” section with
> the proof that if F(Sq) is pullback and F is fully faithful then Sq
> is pullback?

Yes, there are lemmas for both directions in that file.

**Comment by benediktahrens** [comment]
On 09/16/2016 01:05 PM, Vladimir Voevodsky wrote:
> Benedikt, the title that you suggest is not exactly right. I may suggest:
> 
> "The square isomorphic to a pullback is a pullback (case 1)”

Sounds good!

**Comment by benediktahrens** [comment]
On 09/16/2016 01:00 PM, Vladimir Voevodsky wrote:
> Is it at all possible to make diagram to show well in the HTML? That
> would be great.

Yes, by enclosing it in

<<

here the diagram

>>

it will be printed verbatim, that is, with the formatting as in the Coq
file.

File: UniMath/CategoryTheory/limits/products.v [hunk 6]
```diff
@@ -15,7 +20,9 @@ Require Import UniMath.CategoryTheory.UnicodeNotations.
 Require Import UniMath.CategoryTheory.ProductPrecategory.
 
 Local Notation "a --> b" := (precategory_morphisms a b)(at level 50).
+Local Notation "[ C , D , hs ]" := (functor_precategory C D hs).
 
+(** * Definition of arbitrary products *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/products.v]: The word "arbitrary" should be removed.

**Comment by DanGrayson** [comment]
Re: "The square isomorphic to a pullback is a pullback (case 1)”

Better: "A square isomorphic to a pullback is a pullback (case 1)”

**Comment by mortberg** [comment]
Thanks for all the comments. I've fixed them now.

File: UniMath/CategoryTheory/limits/pullbacks.v [hunk 7]
```diff
@@ -426,12 +439,579 @@ Section pb_criteria.
...
+
+Variable Hcomm : c ;; a = d ;; b.
+
+Arguments mk_Pullback {_ _ _ _ _ _ _ _ _ _ } _ .
+
+Lemma pb_if_pointwise_pb
+  : (Π x : C, isPullback _ _ _ _ (nat_trans_eq_pointwise Hcomm x)) -> isPullback _ _ _ _ Hcomm.
+Proof.
+  intro T.
+  simple refine (mk_isPullback _ _ _ _ _ _ ).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/pullbacks.v]: This proof is super bad (it is mine). Would you mind reworking it before we merge the PR, using `unique_exists` and factoring some stuff out into separate lemmas?

Comment (mortberg) [inline UniMath/CategoryTheory/limits/pullbacks.v]: I cleaned that one now. There are a few other lemmas that could also be cleaned, but maybe that can wait. I think some lemmas would benefit from some more opacification, so if you experience slow proofs/Qeds in your project that requires a lot of theory about pullbacks you should probably fix these.

**Comment by benediktahrens** [comment]
Travis failure due to lablgtk (see #465), restarting build.

**Comment by benediktahrens** [comment]
lgtm

**Comment by benediktahrens** [comment]
Does someone else want to add something to this PR?
